US06005000
Hydrogenolysis of 330 mg of 5-(4-chlorophenyl)-4-hydroxy-5-methyl-3-phenylmethoxy-2(5H)-furanone was performed in a similar manner as described in the preparation of 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone to provided 110 mg (46% yield) of 5-(4-chlorophenyl)-3,4-dihydroxy-5-methyl-2(5H)-furanone a light tan solid: mp 154-155° C. dec. (benzene/hexanes) 1H NMR (acetone-d6) δ 7.52-7.34 (m, 4H), 1.82 (s, 3H). 13C NMR (acetone-d6) δ 169.0, 156.6, 139.8, 134.3, 129.2, 127.8, 117.9, 80.8, 24.6. Anal Calcd for C11H9ClO4 : C, 54.90; H, 3.77. Found: C, 54.74; H, 4.08.

reactant | 5-(4-chlorophenyl)-4-hydroxy-5-methyl-3-phenylmethoxy-2(5H)-furanone | 330 mg | ClC1=CC=C(C=C1)C1(C(=C(C(O1)=O)OCC1=CC=CC=C1)O)C | C18H15ClO4
reactant | 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone | OC=1C(OC(C1O)(C1=CC=CC=C1)C)=O | C11H10O4
product | 5-(4-chlorophenyl)-3,4-dihydroxy-5-methyl-2(5H)-furanone | 110 mg, 46% yield | ClC1=CC=C(C=C1)C1(C(=C(C(O1)=O)O)O)C | C11H9ClO4
